US08486967B2
b) (2-Amino-pyridin-3-yl)-(4-fluoro-phenyl)-methanol
To a solution of N-{3-[(4-fluoro-phenyl)-hydroxy-methyl]-pyridin-2-yl}pivalamide (890 mg, 2.94 mmol) in ethanol (44 mL) was added 2 N aqueous sodium hydroxide solution (7.36 mL, 14.7 mmol). The reaction was heated to 100° C. for 5 hours. Water was added and the reaction was extracted twice with ethyl acetate. The combined organic layers were washed with saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered and the solvent was evaporated under reduced pressure to yield the title compound as a as a light yellow solid (548 mg, 85%) without further purification.

reactant | N-{3-[(4-fluoro-phenyl)-hydroxy-methyl]-pyridin-2-yl}pivalamide | 2.94 mmol, 890 mg | FC1=CC=C(C=C1)C(C=1C(=NC=CC1)NC(C(C)(C)C)=O)O | C17H19FN2O2
reactant | sodium hydroxide | 14.7 mmol, 2 N, 7.36 mL | [OH-].[Na+]
reactant | Water | O | H2O
solvent | ethanol | 44 mL | C(C)O | C2H6O
product | (2-Amino-pyridin-3-yl)-(4-fluoro-phenyl)-methanol | NC1=NC=CC=C1C(O)C1=CC=C(C=C1)F | C12H11FN2O
